US07834000B2
Ethyl 2-(3-isopentyl-4-oxo-2-phenylthiazolidin-5-yl)propanoate
To a stirred solution of ethyl 2-(3-isopentyl-4-oxo-2-phenylthiazolidin-5-yl)acetate (84 mg, 0.25 mmol) in THF at 0° C. was added LiHMDS (0.28 ml of 1 N, 0.28 mmol) dropwise and the reaction mixture was stirred from 0° C. to RT over 16 hours. The reaction mixture was poured in to 1 N HCl and extracted with EtOAc (4×). The organics were combined, dried (MgSO4) and evaporated to dryness. Purification by preparative TLC (7:1; Hx:EtOAc) gave the desired product as an oil (12 mg).

reactant | ethyl 2-(3-isopentyl-4-oxo-2-phenylthiazolidin-5-yl)acetate | 0.25 mmol, 84 mg | C(CC(C)C)N1C(SC(C1=O)CC(=O)OCC)C1=CC=CC=C1 | C18H25NO3S
reactant | LiHMDS | 0.28 mmol, 1 N, 0.28 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | HCl | 1 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 2-(3-isopentyl-4-oxo-2-phenylthiazolidin-5-yl)propanoate | 12 mg | C(CC(C)C)N1C(SC(C1=O)C(C(=O)OCC)C)C1=CC=CC=C1 | C19H27NO3S
